US07465731B2
ethyl (2E)-3-(5-{[(3R)-1-benzyl-3-pyrrolidinyl](tert-butoxycarbonyl)amino}-2-pyrazinyl)acrylate
0.94 M solution of diisobutylaluminium hydride in hexane (4.82 ml) was added dropwise to a solution of methyl 5-{[(3R)-1-benzyl-3-pyrrolidinyl](tert-butoxycarbonyl)amino}-2-pyrazinecarboxylate (1.01 g) in THF (20 ml) with stirred below −60° C. under atmospheric pressure of nitrogen, and the reaction mixture was stirred at −55 to −50° C. for 1 hr. To the reaction mixture was added saturated aqueous ammonium chloride (1.28 ml) at the same temperature, then the mixture was stirred at 25° C. for 40 minutes. THF (14 ml) and MgSO4 (4.36 G) were added to the solution, and the mixture was stirred at 25° C. for 15 minutes. The reaction mixture was filtered, and then to the filtrate was added ETHYL (triphenylphosphoranylidene)acetate (1.07 g), and the mixture was stirred at 25° C. for 16 hr. The reaction mixture was poured into a mixture of AcOEt and 5% aqueous NaCl. The separated organic layer was washed with brine, dried over sodium sulfate and evaporated in vacuo. The resulting residue was purified by column chromatography on silica gel (51 g) using a mixed solvent of hexane and ethyl acetate (7:2 to 2:1). The fractions containing the objective compound were collected and evaporated under reduced pressure. Title compound (584 mg, 53%) was obtained as slightly yellowish oil.

reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | methyl 5-{[(3R)-1-benzyl-3-pyrrolidinyl](tert-butoxycarbonyl)amino}-2-pyrazinecarboxylate | 1.01 g | C(C1=CC=CC=C1)N1C[C@@H](CC1)N(C=1N=CC(=NC1)C(=O)OC)C(=O)OC(C)(C)C | C22H28N4O4
reactant | ammonium chloride | 1.28 ml | [Cl-].[NH4+]
reactant | MgSO4 | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | THF | 20 ml | C1CCOC1 | C4H8O
reactant | THF | 14 ml | C1CCOC1 | C4H8O
solvent | hexane | 4.82 ml | CCCCCC | C6H14
product | ethyl (2E)-3-(5-{[(3R)-1-benzyl-3-pyrrolidinyl](tert-butoxycarbonyl)amino}-2-pyrazinyl)acrylate | 584 mg, 53% | C(C1=CC=CC=C1)N1C[C@@H](CC1)N(C=1N=CC(=NC1)/C=C/C(=O)OCC)C(=O)OC(C)(C)C | C25H32N4O4
